US05084454
2-[4-(2-methoxyphenyl)-piperazin-1-yl]-methyl-4-(4-fluorophenyl)-2,3-dihydro-4H-1,4-benzoxazine;
2-(1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one-8-yl)-methyl-4-(4-fluorophenyl)-7-fluoro-2,3-dihydro-4H-1,4-benzoxazine, m.p. 288°-292° C., as hydrochloride.

reactant | 2-(1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one-8-yl)-methyl-4-(4-fluorophenyl)-7-fluoro-2,3-dihydro-4H-1,4-benzoxazine | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)C2(OC1=C(N(C2)C2=CC=C(C=C2)F)C=CC(=C1)F)C)=O | C28H28F2N4O2
reactant | hydrochloride | Cl | ClH
product | 2-[4-(2-methoxyphenyl)-piperazin-1-yl]-methyl-4-(4-fluorophenyl)-2,3-dihydro-4H-1,4-benzoxazine | COC1=C(C=CC=C1)N1CCN(CC1)C1(OC2=C(N(C1)C1=CC=C(C=C1)F)C=CC=C2)C | C26H28FN3O2
